US04728741
A: N-Benzyl-2-nitroaniline
Reaction of 2-chloronitrobenzene (10 g, 63 mmole), benzylamine (40 g, 380 mmole) and ammonium acetate (4.6 g) substantially as described in 1C above produced 14 g (98%) of title compound as orange crystals: mp 65°-67°.

reactant | 2-chloronitrobenzene | 63 mmole, 10 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | benzylamine | 380 mmole, 40 g | C(C1=CC=CC=C1)N | C7H9N
reactant | ammonium acetate | 4.6 g | C(C)(=O)[O-].[NH4+]
product | N-Benzyl-2-nitroaniline | 14 g, 98% | C(C1=CC=CC=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C13H12N2O2
